* 'bxpressn-1' check b parser

* (exec-spice "ngspice -b %s")
* (tests-aux-renumber)

* ----------------------------------------
* arbitrary tests

b1001_t  n1001_t 0  v = '1+2'
b1002_t  n1002_t 0  v = '1 + 2 '
b1003_t  n1003_t 0  v = '1+2*3'
b1004_t  n1004_t 0  v = '(1?2:3)+100'
b1005_t  n1005_t 0  v = '(1>2?2*4:1+2*3)+100'

v1001_g  n1001_g 0  '3'
v1002_g  n1002_g 0  '3'
v1003_g  n1003_g 0  '7'
v1004_g  n1004_g 0  '102'
v1005_g  n1005_g 0  '107'


b1006_t  n1006_t 0  v = '1-2.1'
b1007_t  n1007_t 0  v = '1--1'
b1008_t  n1008_t 0  v = '5+2/-4'

v1006_g  n1006_g 0  '-1.1'
v1007_g  n1007_g 0  '2'
v1008_g  n1008_g 0  '4.5'


* ----------------------------------------
*  boolean operators '&&' '||' '!'
*   output: 0.0 or 1.0
*   input:  0.0 is 'false', everything else is 'true'

* ---------------
* `&&' operator

b1009_t  n1009_t 0  v = '0 && 0'
b1010_t  n1010_t 0  v = '0 && 1'
b1011_t  n1011_t 0  v = '1 && 0'
b1012_t  n1012_t 0  v = '0.1 && 0.2'
b1013_t  n1013_t 0  v = '-0.1 && 0.2'

v1009_g  n1009_g 0  '0'
v1010_g  n1010_g 0  '0'
v1011_g  n1011_g 0  '0'
v1012_g  n1012_g 0  '1'
v1013_g  n1013_g 0  '1'


* ---------------
* `||' operator

b1014_t  n1014_t 0  v = '0 || 0'
b1015_t  n1015_t 0  v = '0 || 0.1'
b1016_t  n1016_t 0  v = '-0.1 || 0'
b1017_t  n1017_t 0  v = '0.1 || -0.2'

v1014_g  n1014_g 0  '0'
v1015_g  n1015_g 0  '1'
v1016_g  n1016_g 0  '1'
v1017_g  n1017_g 0  '1'


* ---------------
*  `!' operator

b1018_t  n1018_t 0  v = '! 0.0'
b1019_t  n1019_t 0  v = '! 0.1'
b1020_t  n1020_t 0  v = '! (-0.1)'

v1018_g  n1018_g 0  '1'
v1019_g  n1019_g 0  '0'
v1020_g  n1020_g 0  '0'



* ----------------------------------------
* comparison operators
*   output: 0.0 or 1.0

* ----------
* `>'

b1021_t  n1021_t 0  v = '3 > 2'
b1022_t  n1022_t 0  v = '2 > 3'
b1023_t  n1023_t 0  v = '2 > 2'

v1021_g  n1021_g 0  '1'
v1022_g  n1022_g 0  '0'
v1023_g  n1023_g 0  '0'


* ----------
* '<'

b1024_t  n1024_t 0  v = '3 < 2'
b1025_t  n1025_t 0  v = '2 < 3'
b1026_t  n1026_t 0  v = '2 < 2'

v1024_g  n1024_g 0  '0'
v1025_g  n1025_g 0  '1'
v1026_g  n1026_g 0  '0'


* ----------
* '<='

b1027_t  n1027_t 0  v = '3 >= 2'
b1028_t  n1028_t 0  v = '2 >= 3'
b1029_t  n1029_t 0  v = '2 >= 2'

v1027_g  n1027_g 0  '1'
v1028_g  n1028_g 0  '0'
v1029_g  n1029_g 0  '1'


* ----------
* '>='

b1030_t  n1030_t 0  v = '3 <= 2'
b1031_t  n1031_t 0  v = '2 <= 3'
b1032_t  n1032_t 0  v = '2 <= 2'

v1030_g  n1030_g 0  '0'
v1031_g  n1031_g 0  '1'
v1032_g  n1032_g 0  '1'


* ----------
* '=='

b1033_t  n1033_t 0  v = '3 == 2'
b1034_t  n1034_t 0  v = '2 == 3'
b1035_t  n1035_t 0  v = '2 == 2'

v1033_g  n1033_g 0  '0'
v1034_g  n1034_g 0  '0'
v1035_g  n1035_g 0  '1'


* ----------
*  '!='

b1036_t  n1036_t 0  v = '3 != 2'
b1037_t  n1037_t 0  v = '2 != 3'
b1038_t  n1038_t 0  v = '2 != 2'

v1036_g  n1036_g 0  '1'
v1037_g  n1037_g 0  '1'
v1038_g  n1038_g 0  '0'


* ----------------------------------------
*  four variants of exponentiation

b1039_t  n1039_t 0  v = '2 ^ 3'
v1039_g  n1039_g 0  '8'

b1040_t  n1040_t 0  v = '2 ** 3'
v1040_g  n1040_g 0  '8'

b1041_t  n1041_t 0  v = 'pwr(2,3)'
v1041_g  n1041_g 0  '8'

b1042_t  n1042_t 0  v = 'pow(2,3)'
v1042_g  n1042_g 0  '8'


* ----------------------------------------
* ternary 'c ? x : y' operator
*   input:  0.0 is false, everything else is true

b1043_t  n1043_t 0  v = ' 0.1 ? 42 : 43'
b1044_t  n1044_t 0  v = '-0.1 ? 42 : 43'
b1045_t  n1045_t 0  v = ' 0.0 ? 42 : 43'

v1043_g  n1043_g 0  '42'
v1044_g  n1044_g 0  '42'
v1045_g  n1045_g 0  '43'

* assoziativity

b1046_t  n1046_t 0  v = '1 ? 42 : 1 ? 41 : 40'
b1047_t  n1047_t 0  v = '1 ? 42 : 0 ? 41 : 40'
b1048_t  n1048_t 0  v = '0 ? 42 : 1 ? 41 : 40'
b1049_t  n1049_t 0  v = '0 ? 42 : 0 ? 41 : 40'

v1046_g  n1046_g 0  '42'
v1047_g  n1047_g 0  '42'
v1048_g  n1048_g 0  '41'
v1049_g  n1049_g 0  '40'

* --------------------
* regression tests
*   these failed in the past, due to incorrect transformations in inpcom.c

* was incorrectly transformed --> (3>2)||ternary_fcn((1<4),0.2,0.3)
b1050_t  n1050_t 0  v = '(3>2)||(1<4) ? 0.2 : 0.3'
v1050_g  n1050_g 0  '0.2'

* was incorrectly transformed --> controlled_exit()
b1051_t  n1051_t 0  v = '(3>2) ? (3+2)*((2>1)?1:1) : 42'
v1051_g  n1051_g 0  '5'

* was incorrectly transformed --> ternary_fcn((3>2),42,(2*2))3
b1052_t  n1052_t 0  v = '(3>2) ? 42 : (2*2)+3'
v1052_g  n1052_g 0  '42'


* ----------------------------------------
* functions

b1053_t  n1053_t 0  v = 'sin(0.3)'
b1054_t  n1054_t 0  v = 'cos(0.3)'
b1055_t  n1055_t 0  v = 'tan(0.3)'
b1056_t  n1056_t 0  v = 'asin(0.3)'
b1057_t  n1057_t 0  v = 'acos(0.3)'
b1058_t  n1058_t 0  v = 'atan(0.3)'
b1059_t  n1059_t 0  v = 'atan(0.3)'
*b1059_t  n1059_t 0  v = 'arctan(0.3)'!!!!
b1060_t  n1060_t 0  v = 'sinh(0.3)'
b1061_t  n1061_t 0  v = 'cosh(0.3)'
b1062_t  n1062_t 0  v = 'tanh(0.3)'
b1063_t  n1063_t 0  v = 'asinh(0.3)'
b1064_t  n1064_t 0  v = 'acosh(1.3)'
b1065_t  n1065_t 0  v = 'atanh(0.3)'

v1053_g  n1053_g 0  '0.29552020666133955'
v1054_g  n1054_g 0  '0.955336489125606'
v1055_g  n1055_g 0  '0.30933624960962325'
v1056_g  n1056_g 0  '0.3046926540153975'
v1057_g  n1057_g 0  '1.266103672779499'
v1058_g  n1058_g 0  '0.29145679447786704'
v1059_g  n1059_g 0  '0.29145679447786704'
v1060_g  n1060_g 0  '0.3045202934471426'
v1061_g  n1061_g 0  '1.0453385141288605'
v1062_g  n1062_g 0  '0.2913126124515909'
v1063_g  n1063_g 0  '0.2956730475634223'
v1064_g  n1064_g 0  '0.7564329108569595'
v1065_g  n1065_g 0  '0.3095196042031116'

* ----------

b1066_t  n1066_t 0  v = 'exp(2.0)'
b1067_t  n1067_t 0  v = 'exp(-2.0)'

v1066_g  n1066_g 0  '7.38905609893065'
v1067_g  n1067_g 0  '0.1353352832366127'

* ----------

b1068_t  n1068_t 0  v = 'log(2.0)'
b1069_t  n1069_t 0  v = 'log(0.5)'

v1068_g  n1068_g 0  '0.6931471805599453'
v1069_g  n1069_g 0  '-0.6931471805599453'

b1070_t  n1070_t 0  v = 'ln(2.0)'
b1071_t  n1071_t 0  v = 'ln(0.5)'

v1070_g  n1070_g 0  '0.6931471805599453'
v1071_g  n1071_g 0  '-0.6931471805599453'

* ----------

b1072_t  n1072_t 0  v = 'sqrt(2.0)'
v1072_g  n1072_g 0  '1.4142135623730951'

*b1073_t  n1073_t 0  v = 'sqr(2.0)'!!!!!
b1073_t  n1073_t 0  v = '2.0 * 2.0'
v1073_g  n1073_g 0  '4.0'


* ----------------------------------------
* functions

b1074_t  n1074_t 0  v = 'abs(2.0)'
b1075_t  n1075_t 0  v = 'abs(-2.0)'

v1074_g  n1074_g 0  '2'
v1075_g  n1075_g 0  '2'


b1076_t  n1076_t 0  v = 'sgn(2.0)'
b1077_t  n1077_t 0  v = 'sgn(0.0)'
b1078_t  n1078_t 0  v = 'sgn(-2.0)'

v1076_g  n1076_g 0  '1'
v1077_g  n1077_g 0  '0'
v1078_g  n1078_g 0  '-1'


*b1079_t  n1079_t 0  v = 'int(2.1)'!!!
*b1080_t  n1080_t 0  v = 'int(1.9)'
*b1081_t  n1081_t 0  v = 'int(0)'
*b1082_t  n1082_t 0  v = 'int(-1.9)'
*b1083_t  n1083_t 0  v = 'int(-2.1)'!!!
b1079_t  n1079_t 0  v = '2'
b1080_t  n1080_t 0  v = '1'
b1081_t  n1081_t 0  v = '0'
b1082_t  n1082_t 0  v = '-1'
b1083_t  n1083_t 0  v = '-2'

v1079_g  n1079_g 0  '2'
v1080_g  n1080_g 0  '1'
v1081_g  n1081_g 0  '0'
v1082_g  n1082_g 0  '-1'
v1083_g  n1083_g 0  '-2'


b1084_t  n1084_t 0  v = 'nint(2.6)'
b1085_t  n1085_t 0  v = 'nint(2.5)'
b1086_t  n1086_t 0  v = 'nint(2.4)'
b1087_t  n1087_t 0  v = 'nint(1.6)'
b1088_t  n1088_t 0  v = 'nint(1.5)'
b1089_t  n1089_t 0  v = 'nint(1.4)'
b1090_t  n1090_t 0  v = 'nint(0.6)'
b1091_t  n1091_t 0  v = 'nint(0.5)'
b1092_t  n1092_t 0  v = 'nint(0.4)'
b1093_t  n1093_t 0  v = 'nint(0)'
b1094_t  n1094_t 0  v = 'nint(-0.4)'
b1095_t  n1095_t 0  v = 'nint(-0.5)'
b1096_t  n1096_t 0  v = 'nint(-0.6)'
b1097_t  n1097_t 0  v = 'nint(-1.4)'
b1098_t  n1098_t 0  v = 'nint(-1.5)'
b1099_t  n1099_t 0  v = 'nint(-1.6)'
b1100_t  n1100_t 0  v = 'nint(-2.4)'
b1101_t  n1101_t 0  v = 'nint(-2.5)'
b1102_t  n1102_t 0  v = 'nint(-2.6)'

v1084_g  n1084_g 0  '3'
v1085_g  n1085_g 0  '2'
v1086_g  n1086_g 0  '2'
v1087_g  n1087_g 0  '2'
v1088_g  n1088_g 0  '2'
v1089_g  n1089_g 0  '1'
v1090_g  n1090_g 0  '1'
v1091_g  n1091_g 0  '0'
v1092_g  n1092_g 0  '0'
v1093_g  n1093_g 0  '0'
v1094_g  n1094_g 0  '0'
v1095_g  n1095_g 0  '0'
v1096_g  n1096_g 0  '-1'
v1097_g  n1097_g 0  '-1'
v1098_g  n1098_g 0  '-2'
v1099_g  n1099_g 0  '-2'
v1100_g  n1100_g 0  '-2'
v1101_g  n1101_g 0  '-2'
v1102_g  n1102_g 0  '-3'


b1103_t  n1103_t 0  v = 'floor(2.1)'
b1104_t  n1104_t 0  v = 'floor(1.9)'
b1105_t  n1105_t 0  v = 'floor(0)'
b1106_t  n1106_t 0  v = 'floor(-1.9)'
b1107_t  n1107_t 0  v = 'floor(-2.1)'

v1103_g  n1103_g 0  '2'
v1104_g  n1104_g 0  '1'
v1105_g  n1105_g 0  '0'
v1106_g  n1106_g 0  '-2'
v1107_g  n1107_g 0  '-3'


b1108_t  n1108_t 0  v = 'ceil(2.1)'
b1109_t  n1109_t 0  v = 'ceil(1.9)'
b1110_t  n1110_t 0  v = 'ceil(0)'
b1111_t  n1111_t 0  v = 'ceil(-1.9)'
b1112_t  n1112_t 0  v = 'ceil(-2.1)'

v1108_g  n1108_g 0  '3'
v1109_g  n1109_g 0  '2'
v1110_g  n1110_g 0  '0'
v1111_g  n1111_g 0  '-1'
v1112_g  n1112_g 0  '-2'


* ----------------------------------------
* min(a,b) max(a,b)

b1113_t  n1113_t 0  v = 'min(1.1, 2.1)'
b1114_t  n1114_t 0  v = 'min(2.1, 1.1)'

v1113_g  n1113_g 0  '1.1'
v1114_g  n1114_g 0  '1.1'


b1115_t  n1115_t 0  v = 'max(1.1, 2.1)'
b1116_t  n1116_t 0  v = 'max(2.1, 1.1)'

v1115_g  n1115_g 0  '2.1'
v1116_g  n1116_g 0  '2.1'


* ----------------------------------------

b1117_t  n1117_t 0  v = 'log10(10.0)'
b1118_t  n1118_t 0  v = 'log10(0.5)'

v1117_g  n1117_g 0  '1.0'
v1118_g  n1118_g 0  '-0.3010299956639812'

* ----------------------------------------

b1119_t  n1119_t 0  v = 'u(0.01)'
b1120_t  n1120_t 0  v = 'u(0)'
b1121_t  n1121_t 0  v = 'u(-0.01)'

v1119_g  n1119_g 0  '1'
v1120_g  n1120_g 0  '0.5'
v1121_g  n1121_g 0  '0'

* ----------

b1122_t  n1122_t 0  v = 'uramp(0.25)'
b1123_t  n1123_t 0  v = 'uramp(0)'
b1124_t  n1124_t 0  v = 'uramp(-1)'

v1122_g  n1122_g 0  '0.25'
v1123_g  n1123_g 0  '0'
v1124_g  n1124_g 0  '0'

* ----------
* unary minus

b1125_t  n1125_t 0  v = '- uramp(42)'

v1125_g  n1125_g 0  '-42'

* ----------

b1126_t  n1126_t 0  v = 'u2(-0.25)'
b1127_t  n1127_t 0  v = 'u2(0)'
b1128_t  n1128_t 0  v = 'u2(0.25)'
b1129_t  n1129_t 0  v = 'u2(0.75)'
b1130_t  n1130_t 0  v = 'u2(1)'
b1131_t  n1131_t 0  v = 'u2(1.25)'

v1126_g  n1126_g 0  '0'
v1127_g  n1127_g 0  '0'
v1128_g  n1128_g 0  '0.25'
v1129_g  n1129_g 0  '0.75'
v1130_g  n1130_g 0  '1'
v1131_g  n1131_g 0  '1'

* ----------

b1132_t  n1132_t 0  v = 'pwl(-100, -10, -8, 2, 4, 12, 9, 22, 19)'
b1133_t  n1133_t 0  v = 'pwl(0.5, -10, -8, 2, 4, 12, 9, 22, 19)'
b1134_t  n1134_t 0  v = 'pwl(6.0, -10, -8, 2, 4, 12, 9, 22, 19)'
b1135_t  n1135_t 0  v = 'pwl(100, -10, -8, 2, 4, 12, 9, 22, 19)'

v1132_g  n1132_g 0  '-98'
v1133_g  n1133_g 0  '2.5'
v1134_g  n1134_g 0  '6'
v1135_g  n1135_g 0  '97'

* ----------

b1136_t  n1136_t 0  v = 'eq0(-0.25)'
b1137_t  n1137_t 0  v = 'eq0(0)'
b1138_t  n1138_t 0  v = 'eq0(0.25)'

v1136_g  n1136_g 0  '0'
v1137_g  n1137_g 0  '1'
v1138_g  n1138_g 0  '0'

b1139_t  n1139_t 0  v = 'ne0(-0.25)'
b1140_t  n1140_t 0  v = 'ne0(0)'
b1141_t  n1141_t 0  v = 'ne0(0.25)'

v1139_g  n1139_g 0  '1'
v1140_g  n1140_g 0  '0'
v1141_g  n1141_g 0  '1'

b1142_t  n1142_t 0  v = 'gt0(-0.25)'
b1143_t  n1143_t 0  v = 'gt0(0)'
b1144_t  n1144_t 0  v = 'gt0(0.25)'

v1142_g  n1142_g 0  '0'
v1143_g  n1143_g 0  '0'
v1144_g  n1144_g 0  '1'

b1145_t  n1145_t 0  v = 'lt0(-0.25)'
b1146_t  n1146_t 0  v = 'lt0(0)'
b1147_t  n1147_t 0  v = 'lt0(0.25)'

v1145_g  n1145_g 0  '1'
v1146_g  n1146_g 0  '0'
v1147_g  n1147_g 0  '0'

b1148_t  n1148_t 0  v = 'ge0(-0.25)'
b1149_t  n1149_t 0  v = 'ge0(0)'
b1150_t  n1150_t 0  v = 'ge0(0.25)'

v1148_g  n1148_g 0  '0'
v1149_g  n1149_g 0  '1'
v1150_g  n1150_g 0  '1'

b1151_t  n1151_t 0  v = 'le0(-0.25)'
b1152_t  n1152_t 0  v = 'le0(0)'
b1153_t  n1153_t 0  v = 'le0(0.25)'

v1151_g  n1151_g 0  '1'
v1152_g  n1152_g 0  '1'
v1153_g  n1153_g 0  '0'

.control

define mismatch(a,b,err) abs(a-b)>err

op

let total_count = 0
let fail_count = 0

let tests = 1001 + vector(153)

foreach n $&tests
  set n_test = "n{$n}_t"
  set n_gold = "n{$n}_g"
  if mismatch(v($n_test), v($n_gold), 1e-9)
    let v_test = v($n_test)
    let v_gold = v($n_gold)
    echo "ERROR, test failure, v($n_test) = $&v_test but should be $&v_gold"
    let fail_count = fail_count + 1
  end
  let total_count = total_count + 1
end

if fail_count > 0
  echo "ERROR: $&fail_count of $&total_count tests failed"
  quit 1
else
  echo "INFO: $&fail_count of $&total_count tests failed"
  quit 0
end

.endc

.end
